US05482941
2-Amino-3-methoxybenzamide
3-Methoxy-2-nitrobenzamide (7.0 g, 0.038 mol) was dissolved in ethanol (150 ml) and the solution stirred with Raney nickel catalyst (0.5 g) under a hydrogen atmosphere at 50 p.s.i. (3.45 bar) for 4 hours. The catalyst was removed by filtration and the solvent removed by evaporation under vacuum to give the title compound, after crystallization from ethyl acetatehexane, as a colorless solid (6.3 g, 83%), m.p. 140°-141° C. Found: C,58.03; H,6.06; N,16.65. C8H10N2O2 requires C,57.82; H,6.07; N,16.86%.

reactant | 3-Methoxy-2-nitrobenzamide | 0.038 mol, 7.0 g | COC=1C(=C(C(=O)N)C=CC1)[N+](=O)[O-] | C8H8N2O4
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
product | 2-Amino-3-methoxybenzamide | NC1=C(C(=O)N)C=CC=C1OC | C8H10N2O2
